US06670400B1
N-[4-{Benzyl[2-(2-nitrophenoxy)ethyl]amino}butyl]benzamide (VI, Ar=2-Nitrophenyl, R=Phenyl)
2-nitrophenol (0.56 g, 0.004 mole) is added in portions to a stirred suspension of sodium hydride (160 mg of a dispersion at 60% in oil, 0.004 mole) in dry dimethylformamide (10 ml) in a nitrogen atmosphere. When the hydrogen evolution is completed, while stirring, a solution of N-[4-{benzyl (2-chloroethyl)amino}butyl]benzamide (1.6 g, 0.0046 mole) in dry dimethylformamide (5 ml) is added dropwise. The reaction mixture is heated to 65-70 degrees C. for 1.5 hours, cooled back to ambient temperature, and poured over crushed ice. The mixture is extracted with ether (50 ml); the organic phase is separated and washed with water (3×20 ml) before being dried over magnesium sulfate. Filtration and evaporation of the solvent at reduced pressure yield 1.3 g of an oil which is purified by flash chromatography over silica gel by using a mixture of ethyl acetate/heptane (3/1) as eluant. The expected compound is obtained in the form of oil (0.94 g, 52%).

reactant | 2-nitrophenol | 0.004 mole, 0.56 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | N-[4-{benzyl (2-chloroethyl)amino}butyl]benzamide | 0.0046 mole, 1.6 g | C(C1=CC=CC=C1)N(CCCCNC(C1=CC=CC=C1)=O)CCCl | C20H25ClN2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[4-{Benzyl[2-(2-nitrophenoxy)ethyl]amino}butyl]benzamide | C(C1=CC=CC=C1)N(CCCCNC(C1=CC=CC=C1)=O)CCOC1=C(C=CC=C1)[N+](=O)[O-] | C26H29N3O4
